*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-471
* Inductance = 0.486uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2010-471_freq port1 port2 PARAMS: Cpar=0.16pF Ind=0.486uH
X1 port1 port2 Model1A PARAMS:
+ R1=231.7
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000415
+ K2=0.088
+ K3= {Ind}
+ K4=0.0043
+ K5=0.00000214
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1823.68624
.ends PFL2010-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-471
* Inductance = 0.486uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2010-471_imp port1 port2 PARAMS: Cpar=0.15pF Ind=0.486uH
X1 port1 port2 Model1D PARAMS:
+ R1=231.7
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000415
+ K2=0.088
+ K3= {Ind}
+ K4=0.0043
+ K5=0.00000214
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1823.68624
.ends PFL2010-471_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-681
* Inductance = 0.796uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2010-681_freq port1 port2 PARAMS: Cpar=0.171pF Ind=0.796uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.087
+ C= {Cpar}
+ K1=0.0000458
+ K2=0.125
+ K3= {Ind}
+ K4=0.043
+ K5=0.0000016
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2528.37583
.ends PFL2010-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-681
* Inductance = 0.796uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2010-681_imp port1 port2 PARAMS: Cpar=0.11pF Ind=0.796uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.087
+ C= {Cpar}
+ K1=0.0000458
+ K2=0.125
+ K3= {Ind}
+ K4=0.043
+ K5=0.0000016
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2528.37583
.ends PFL2010-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-102
* Inductance = 1.101uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2010-102_freq port1 port2 PARAMS: Cpar=0.165pF Ind=1.101uH
X1 port1 port2 Model1A PARAMS:
+ R1=129
+ R2=0.189
+ C= {Cpar}
+ K1=0.0000783
+ K2=0.22
+ K3= {Ind}
+ K4=0.035
+ K5=0.00000185
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4055.7666
.ends PFL2010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-102
* Inductance = 1.101uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2010-102_imp port1 port2 PARAMS: Cpar=0.13pF Ind=1.101uH
X1 port1 port2 Model1D PARAMS:
+ R1=129
+ R2=0.189
+ C= {Cpar}
+ K1=0.0000783
+ K2=0.22
+ K3= {Ind}
+ K4=0.035
+ K5=0.00000185
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4055.7666
.ends PFL2010-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-222
* Inductance = 2.286uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2010-222_freq port1 port2 PARAMS: Cpar=0.6pF Ind=2.286uH
X1 port1 port2 Model1A PARAMS:
+ R1=101
+ R2=0.423
+ C= {Cpar}
+ K1=0.000258
+ K2=0.625
+ K3= {Ind}
+ K4=0.066
+ K5=5.28E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6101.17263
.ends PFL2010-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-222
* Inductance = 2.286uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2010-222_imp port1 port2 PARAMS: Cpar=0.53pF Ind=2.286uH
X1 port1 port2 Model1D PARAMS:
+ R1=101
+ R2=0.423
+ C= {Cpar}
+ K1=0.000258
+ K2=0.625
+ K3= {Ind}
+ K4=0.066
+ K5=5.28E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6101.17263
.ends PFL2010-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-472
* Inductance = 4.81uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2010-472_freq port1 port2 PARAMS: Cpar=1.05pF Ind=4.81uH
X1 port1 port2 Model1A PARAMS:
+ R1=67.2
+ R2=0.618
+ C= {Cpar}
+ K1=0.000441
+ K2=1.213
+ K3= {Ind}
+ K4=0.088
+ K5=6.11E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8861.26472
.ends PFL2010-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2010-472
* Inductance = 4.81uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2010-472_imp port1 port2 PARAMS: Cpar=0.98pF Ind=4.81uH
X1 port1 port2 Model1D PARAMS:
+ R1=67.2
+ R2=0.618
+ C= {Cpar}
+ K1=0.000441
+ K2=1.213
+ K3= {Ind}
+ K4=0.088
+ K5=6.11E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8861.26472
.ends PFL2010-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
